US07645760B2
b) (E)-3-(4-Chloro-2-methanesulfonylamino-5-methoxyphenyl)-acrylic acid ethyl ester
(E)-3-(2-Amino-4-chloro-5-methoxyphenyl)-acrylic acid ethyl ester (250 mg; 0.98 mmol) in pyridine (2 ml) was treated with methanesulfonyl chloride (0.15 ml; 2 mmol) for 15 min. at room temperature. The reaction mixture was poured on water and extracted with TBME three times. The combined organic phases were evaporated to dryness and purified via chromatography (SiO2; acetone/hexanes 2/8) to yield the title compound as slightly yellow crystals (216 mg; 66%)

reactant | (E)-3-(2-Amino-4-chloro-5-methoxyphenyl)-acrylic acid ethyl ester | 0.98 mmol, 250 mg | C(C)OC(\C=C\C1=C(C=C(C(=C1)OC)Cl)N)=O | C12H14ClNO3
reactant | methanesulfonyl chloride | 2 mmol, 0.15 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (E)-3-(4-Chloro-2-methanesulfonylamino-5-methoxyphenyl)-acrylic acid ethyl ester | C(C)OC(\C=C\C1=C(C=C(C(=C1)OC)Cl)NS(=O)(=O)C)=O | C13H16ClNO5S
